US08084448B2
5-(2-Hydroxy-4-thiophen-3-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared using 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and thiophene-3-boronic acid analogous to Example 272: 1H NMR (DMSO-d6δ9.68 (br s, 1H), 7.75 (m, 1H), 7.61 (m, 1H), 7.43 (m, 1H), 7.38 (m, 1H), 7.15 (m, 2H), 4.32 (s, 2H); (M−1)−=309.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 5-(2-Hydroxy-4-thiophen-3-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)C1=CSC=C1)N1CC(NS1(=O)=O)=O | C12H10N2O4S2
